### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/Restrict): more API for `Scheme.Opens`.

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Restrict.lean [hunk 1]
```diff
@@ -177,81 +177,104 @@ lemma Scheme.map_basicOpen' (r : Γ(U, ⊤)) :
...
     U.ι ''ᵁ (U.toScheme.basicOpen <| U.topIso.inv r) = X.basicOpen r := by
   simp only [Scheme.Opens.toScheme_presheaf_obj]
-  rw [Scheme.map_basicOpen', Scheme.basicOpen_res_eq, Scheme.Opens.topIso_inv,
+  rw [Scheme.map_basicOpen, Scheme.basicOpen_res_eq, Scheme.Opens.topIso_inv,
     Scheme.basicOpen_res_eq X]
 
+/-- If `U ≤ V`, then `U` is also a subscheme of `V`. -/
+protected noncomputable
+def Scheme.homOfLE (X : Scheme.{u}) {U V : X.Opens} (e : U ≤ V) : (U : Scheme.{u}) ⟶ V :=
+  IsOpenImmersion.lift (V.ι) U.ι (by simpa using e)
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Restrict.lean:192]:
```suggestion
  IsOpenImmersion.lift V.ι U.ι (by simpa using e)
```

File: Mathlib/AlgebraicGeometry/Restrict.lean [hunk 2]
```diff
@@ -177,81 +177,104 @@ lemma Scheme.map_basicOpen' (r : Γ(U, ⊤)) :
...
     U.ι ''ᵁ (U.toScheme.basicOpen <| U.topIso.inv r) = X.basicOpen r := by
   simp only [Scheme.Opens.toScheme_presheaf_obj]
-  rw [Scheme.map_basicOpen', Scheme.basicOpen_res_eq, Scheme.Opens.topIso_inv,
+  rw [Scheme.map_basicOpen, Scheme.basicOpen_res_eq, Scheme.Opens.topIso_inv,
     Scheme.basicOpen_res_eq X]
 
+/-- If `U ≤ V`, then `U` is also a subscheme of `V`. -/
+protected noncomputable
+def Scheme.homOfLE (X : Scheme.{u}) {U V : X.Opens} (e : U ≤ V) : (U : Scheme.{u}) ⟶ V :=
+  IsOpenImmersion.lift V.ι U.ι (by simpa using e)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Restrict.lean:192]: Should we enforce using `(U : Scheme.{u})` over `U.toScheme`? I know there are sometimes issues with `(_ : Set X)` and `_.carrier` where the first seems to be preferred? I am asking because below you sometimes write `U.toScheme`.

File: Mathlib/AlgebraicGeometry/Restrict.lean [hunk 3]
```diff
@@ -177,81 +177,104 @@ lemma Scheme.map_basicOpen' (r : Γ(U, ⊤)) :
...
+  exact congr($(X.homOfLE_ι e).base a)
+
+@[simp]
+theorem Scheme.homOfLE_apply {U V : X.Opens} (e : U ≤ V) (x : U) :
+    ((X.homOfLE e).base x).1 = x := by
+  rw [homOfLE_base]
+  rfl
+
+theorem Scheme.homOfLE_app_aux {U V : X.Opens} (e : U ≤ V) (W : Opens V) :
+    U.ι ''ᵁ (X.homOfLE e ⁻¹ᵁ W) ≤ V.ι ''ᵁ W := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Restrict.lean:220]:
```suggestion
theorem Scheme.ι_image_homOfLE_le_ι_image {U V : X.Opens} (e : U ≤ V) (W : Opens V) :
    U.ι ''ᵁ (X.homOfLE e ⁻¹ᵁ W) ≤ V.ι ''ᵁ W := by
```

File: Mathlib/AlgebraicGeometry/Restrict.lean [hunk 4]
```diff
@@ -272,40 +295,98 @@ def Scheme.restrictRestrictComm (X : Scheme.{u}) (U V : X.Opens) :
   IsOpenImmersion.isoOfRangeEq (Opens.ι _ ≫ U.ι) (Opens.ι _ ≫ V.ι) <| by
     simp [Set.image_preimage_eq_inter_range, Set.inter_comm (U : Set X), Set.range_comp]
 
-/-- If `V` is an open subset of `U`, then `X ∣_ U ∣_ V` is isomorphic to `X ∣_ V`. -/
+/-- If `f : X ⟶ Y` is an open immersion, then for any `V : X.Opens`,
+we have the isomorphism `U ≅ f ⁻¹ᵁ U`. -/
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Restrict.lean:299]:
```suggestion
/-- If `f : X ⟶ Y` is an open immersion, then for any `U : X.Opens`,
we have the isomorphism `U ≅ f ''ᵁ U`. -/
```

File: Mathlib/AlgebraicGeometry/Restrict.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Restrict.lean:192]: I believe they are exactly the same after the elaborator.

File: Mathlib/AlgebraicGeometry/Restrict.lean [hunk 5]
```diff
@@ -166,8 +166,8 @@ instance ΓRestrictAlgebra {X : Scheme.{u}} (U : X.Opens) :
     Algebra (Γ(X, ⊤)) Γ(U, ⊤) :=
   (U.ι.app ⊤).toAlgebra
 
-lemma Scheme.map_basicOpen' (r : Γ(U, ⊤)) :
-    U.ι ''ᵁ (U.toScheme.basicOpen r) = X.basicOpen
+lemma Scheme.map_basicOpen (r : Γ(U, ⊤)) :
+    U.ι ''ᵁ U.toScheme.basicOpen r = X.basicOpen
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Restrict.lean:170]: Should there be a `@[deprecated]` alias?

**Review by chrisflav — APPROVED** [review]
One last minor comment, otherwise this looks good to me.

**Comment by chrisflav** [comment]
You caught a merge conflict

**Comment by chrisflav** [comment]
Thanks!

maintainer-merge

**Comment by joelriou** [comment]
Thanks!

bors merge
